US09062070B2
Step F: 3-amino-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carboxylic acid
A solution of 3-[(2,2-dimethylpropanoyl)amino]-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carboxylate (0.624 mg, 1.96 mmol) in 6N hydrochloric acid (25 mL) was heated to reflux for 24 h. The solution was cooled and concentrated to provide the title compound which was used without further purification in the next step: LC/MS (M+1)+=179.0.

reactant | 3-[(2,2-dimethylpropanoyl)amino]-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carboxylate | 1.96 mmol, 0.624 mg | CC(C(=O)NC1=CC2=C(C=N1)C(CC2)C(=O)[O-])(C)C
solvent | hydrochloric acid | 6N, 25 mL | Cl | ClH
product | 3-amino-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carboxylic acid | NC1=CC2=C(C=N1)C(CC2)C(=O)O | C9H10N2O2
